US07910592B2
Step A: 5-Bromo-4-(bromomethyl)-2-phenyl-1,3-thiazole
A mixture of 5-Bromo-4-methyl-2-phenyl-1,3-thiazole (1.00 g, 3.93 mmol), NBS (0.84 g, 4.72 mmol) and catalytic amount of AIBN in CCl4 (20 mL) was heated at reflux for 24 h. No starting material was seen by 1H NMR. The solvent was removed. The title compound was obtained as a colorless solid after flash chromatography using EtOAc/hexane (3:97) as the eluant. 1H NMR (500 MHz, CDCl3): δ 7.90 (m, 3H), 7.48 (m, 2H), 4.61 (s, 2H).

reactant | 5-Bromo-4-methyl-2-phenyl-1,3-thiazole | 3.93 mmol, 1.00 g | BrC1=C(N=C(S1)C1=CC=CC=C1)C | C10H8BrNS
reactant | NBS | 4.72 mmol, 0.84 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-4-(bromomethyl)-2-phenyl-1,3-thiazole | BrC1=C(N=C(S1)C1=CC=CC=C1)CBr | C10H7Br2NS
